US04076849
N-dodecanoylaminobenzene was prepared by acylation of aminobenzene with lauroyl chloride by a procedure similar to that of Example 1(a). After crystallization from hexane, a yield of 84% of white crystalline plates m.p. 76.3°-76.8° C. was obtained.

reactant | aminobenzene | NC1=CC=CC=C1 | C6H7N
reactant | lauroyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | N-dodecanoylaminobenzene | yield of 84% | C(CCCCCCCCCCC)(=O)NC1=CC=CC=C1 | C18H29NO
